US07816344B2
3-(1-Nitro-ethyl)-3H-benzo[c][1,2]oxaborol-1-ol
A solution of NaOH (1.6 g, 41 mmol) in H2O (20 mL) was added to 2-formyl phenylboronic acid (5.1 g, 34 mmol) at rt. The mixture was stirred for 15 min then nitroethane (2.9 mL, 41 mmol) was added dropwise. The mixture was stirred for 30 min and then the clear reaction solution was acidified with 2 N HCl and EtOAc was added. The organic layer was separated, washed with H2O then brine, dried (Na2SO4), and concentrated in vacuo. Purification by flash chromatography (2:1 hexane/EtOAc) gave the title compound as a colorless oil: yield 6.72 g (quantitative).

reactant | NaOH | 41 mmol, 1.6 g | [OH-].[Na+]
reactant | 2-formyl phenylboronic acid | 34 mmol, 5.1 g | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | nitroethane | 41 mmol, 2.9 mL | [N+](=O)([O-])CC | C2H5NO2
reactant | HCl | 2 N | Cl | ClH
solvent | H2O | 20 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(1-Nitro-ethyl)-3H-benzo[c][1,2]oxaborol-1-ol | [N+](=O)([O-])C(C)C1C2=C(B(O1)O)C=CC=C2 | C9H10BNO4
